US08404859B2
Preparation of (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid 1-(2,2-dimethyl-propionyloxy)-ethyl ester
A solution of (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid (70.2 mg, 0.137 mmol), 2,2-Dimethyl-propionic acid 1-chloro-ethyl ester (51 mg, 0.310 mmol), triethylamine (22 mg, 0.217 mmol) and sodium iodide (15 mg, 0.10 mmol) in anhydrous DMF (2.5 mL) was microwaved at 150° C. for 10 min and then concentrated at reduced pressure to remove most of the DMF. The residue was diluted with ethyl acetate (40 mL), washed with water (10 mL), brine (10 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (50% to 80% EtOAc in hexanes) to give(S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid 1-(2,2-dimethyl-propionyloxy)-ethyl ester (25.4 mg, 28.9%) as a yellow solid. MS m/e 641.7 (M+H+).

reactant | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid | 0.137 mmol, 70.2 mg | N1N=CC2=C(C=CC=C12)CC(=O)NC=1SC(=C(N1)C)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1 | C22H20N6O5S2
reactant | 2,2-Dimethyl-propionic acid 1-chloro-ethyl ester | 0.310 mmol, 51 mg | ClC(C)OC(C(C)(C)C)=O | C7H13ClO2
reactant | triethylamine | 0.217 mmol, 22 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.10 mmol, 15 mg | [I-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid 1-(2,2-dimethyl-propionyloxy)-ethyl ester | CC(C(=O)OC(C)OC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C1=C(N=C(S1)NC(CC1=C2C=NNC2=CC=C1)=O)C)=O)(C)C | C29H32N6O7S2
